US08729061B2
Step 1: tert-butyl (2S)-1-(benzo[d]oxazol-2-yl)-1-hydroxybutan-2-ylcarbamate
Under an atmosphere of argon, benzo[d]oxazole (5 g, 42.0 mmol, Eq: 1.00) was combined with THF (100 ml) to give a light yellow solution. At −5° C. isopropylmagnesium chloride 2M in THF (21.0 ml, 42.0 mmol, Eq: 1.00) was added dropwise. The reaction was stirred for 1.5 h at −5° C. Then (S)-tert-butyl 1-oxobutan-2-ylcarbamate (4.72 g, 25.2 mmol, Eq: 0.6) diluted in 20 ml THF was added. The reaction was stirred overnight at RT. Satd. ammoniumchloride solution (6 ml) was added to the reaction. The THF was evaporated under vacuum. The reaction mixture was poured into 50 ml H2O and extracted with ethyl acetate (2×100 ml). The crude material was purified by flash chromatography (silica gel, 20 g, 0% to 40% ethyl acetate in heptane). The title compound was obtained as a brown gum (5.08 g, 39.5%, MS (m/e)=307.2 [M+H+]).

reactant | benzo[d]oxazole | 42.0 mmol, 5 g | O1C=NC2=C1C=CC=C2 | C7H5NO
reactant | isopropylmagnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | (S)-tert-butyl 1-oxobutan-2-ylcarbamate | 25.2 mmol, 4.72 g | O=C[C@H](CC)NC(OC(C)(C)C)=O | C9H17NO3
reactant | ammoniumchloride | 6 ml | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 42.0 mmol, 21.0 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl (2S)-1-(benzo[d]oxazol-2-yl)-1-hydroxybutan-2-ylcarbamate | O1C(=NC2=C1C=CC=C2)C([C@H](CC)NC(OC(C)(C)C)=O)O | C16H22N2O4
